US07384949B2
4-(2-Furyl)thieno[3,2-d]pyrimidine-2-amine (Example 79)
A solution of N-(3,4-dimethoxybenzyl)-4-(2-furyl)thieno[3,2-d]pyrimidine-2-amine (199 mg, 0.54 mmol) in TFA (1 mL) was heated at 60° C. for 1 h, cooled, poured into sat. NaHCO3, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (SiO2:EtOAc:Heptane, 1:1 and MeOH:DCM, 1:19) to give the title compound (108 mg, 92%) as a cream solid.

reactant | N-(3,4-dimethoxybenzyl)-4-(2-furyl)thieno[3,2-d]pyrimidine-2-amine | 0.54 mmol, 199 mg | COC=1C=C(CNC=2N=C(C3=C(N2)C=CS3)C=3OC=CC3)C=CC1OC | C19H17N3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-Furyl)thieno[3,2-d]pyrimidine-2-amine | 108 mg, 92% | O1C(=CC=C1)C=1C2=C(N=C(N1)N)C=CS2 | C10H7N3OS
